US05164388
(4S)-3-Benzyloxycarbonyl-4-phenylmethyl-5-oxooxazolidine
Following the procedure of Ben-Ishai (J. Am. Chem. Soc., 1957, 79, 5736), N-Cbz-L-phenylalanine (10.0 gm, 33.4 mmol), paraformaldehyde (3.0 gm, 100.2 mmol), and p-toluenesulfonic acid (0.64 gm, 3.3 mmol) were suspended in toluene (150 ml). The reaction was brought to reflux and water removed azeotropically through the agency of a Dean-Stark trap until collection of water ceased (0.5-2.0 h). After cooling, the reaction mixture was diluted with ethyl ether, washed (1X, saturated aqueous NaHCO3 ; 1X, brine), dried (Na2SO4), filtered, and concentrated in vacuo to provide a solid after cooling. Recrystallization from ethyl acetate/hexanes provided, after the collection of two crops, the pure title compound (9.26 gm, 89%). m.p.=85.5°-86.5° C.; MS (CI) (M+NH4)+ =329, (M+H)+ =312; Anal. Calcd. for C18H17NO4 : C, 69.44; H, 5.50; N, 4.50. Found: C, 69.33; H, 5.48; N, 4.40.

reactant | N-Cbz-L-phenylalanine | 33.4 mmol, 10.0 gm | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | paraformaldehyde | 100.2 mmol, 3.0 gm | C=O | CH2O
reactant | p-toluenesulfonic acid | 3.3 mmol, 0.64 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (4S)-3-Benzyloxycarbonyl-4-phenylmethyl-5-oxooxazolidine | C(C1=CC=CC=C1)OC(=O)N1COC([C@@H]1CC1=CC=CC=C1)=O | C18H17NO4
